US06248739B1
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide
To a mixture of N-(4-chlorobenzyl)-8-fluoro4-hydroxy-6-iodo-3-quinolinecarboxamide of Preparation No. 1 (0.466 g) in 15 mL diethylamine is added CuI (0.010 g) and (Ph3P)2PdCl2 (0.035 g). Propargyl alcohol (0.058 mL) is then added and the reaction is stirred overnight at room temperature. The diethylamine is removed in vacuo. The residue is partitioned between EtOAc and water. The insoluble material is filtered off and saved. The organic layer is washed with brine, dried and condensed. The residue is combined with the insoluble material and adsorbed onto silica and chromatographed, eluting with 3% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and condensed to yield 0.192 g of the desired product as a tan solid.

reactant | N-(4-chlorobenzyl)-8-fluoro4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)I)F)C=C1 | C17H11ClFIN2O2
reactant | Propargyl alcohol | 0.058 mL | C(C#C)O | C3H4O
solvent | diethylamine | 15 mL | C(C)NCC | C4H11N
catalyst | CuI | 0.010 g | [Cu]I
catalyst | (Ph3P)2PdCl2 | 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | 0.192 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)F)C=C1 | C20H14ClFN2O3
